US04880922
To a mixture of 1,2-ethanedithiol (0.63 mL, 7.5 mmol), water (21 mL) and tetrahydrofuran (4 mL) were added simultaneously 2-fluoro-1-methylpyridinium iodide, described by G. B. Barlin and J. A. Benbow, J.C.S. Perkin II, 790 (1974), (0.90 g, 3.72 mmol) and 1N sodium hydroxide solution (5-6 mL) to keep the pH of the mixture between 6 and 7. When the addition of 2-fluoro-1-methylpyridinium iodide was completed, the reaction mixture was stirred at 23° C. while the pH was kept at 7.1 by the addition of the 1N sodium hydroxide solution. When the pH of the mixture was stabilized at 7.1, the solvents were evaporated under high vacuum until dryness. The solid was triturated in ether (3×10 mL) and in acetonitrile (2×8 mL). The ether solution was dried (MgSO4) and concentrated to give 0.10 g of N-methyl-2(1H)-pyridothione. The acetonitrile solution was dried (MgSO4) and concentrated to give 0.74 g of 2-(2-mercaptoethylthio)-1-methylpyridinium iodide and/or fluoride mixed with some inorganic salts; ir (KBr) νmax : 1617 (pyridinium) cm-1, 1Hmr (DMSO-d6) δ: 2.75-3.1 (m, 2H, CH2SH), 3.4-3.9 (m, CH2S and SH), 4.17 (s, 3H, CH3 on pyridinium), 7.6-9.2 (m, 4H, H's of pyridinium). The acetonitrile insoluble material (0.38 g) was 1,2-di(1-methylpyridinium-2-thio)ethane diiodide or/and difluoride or monoiodidemonofluoride mixed with some inorganic salts; 1Hmr (DMSO-d6) δ: 3.90 (4H, s, SCH2CH2S), 4.21 (6H, s, CH3 's on pyridinium), 7.7-9.1 (8H, m, H's of pyridiniums). The thiol was used without any further purification.

reactant | 1,2-ethanedithiol | 7.5 mmol, 0.63 mL | C(CS)S | C2H6S2
reactant | water | 21 mL | O | H2O
reactant | 2-fluoro-1-methylpyridinium iodide | [I-].FC1=[N+](C=CC=C1)C
reactant | sodium hydroxide | 1N, 5-6 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-(2-mercaptoethylthio)-1-methylpyridinium iodide | 0.74 g | [I-].SCCSC1=[N+](C=CC=C1)C | InChI=1S/C8H11NS2.HI/c1-9-5-3-2-4-8(9)11-7-6-10;/h2-5H,6-7H2,1H3;1H
